US06921821B2
6-(1-Bromoethyl)-quinoline
To a solution of 1-quinolin-6-yl-ethanol (0.4 g, 2.3 mmol) in dry CH2Cl2 (20 mL) was added PBr3 (0.22 mL, 2.3 mmol). The reaction mixture was allowed to stir at room temperature for 12 h, and then was treated slowly with a saturated solution of NaHCO3 (100 mL) until basic. The CH2Cl2 layer was removed, product was extracted from the aqueous layer with ethyl acetate (100 mL), and the combined organic layers were dried over MgSO4, filtered and concentrated in vacuo to afford 0.4 g (72%) of a pale yellow oil. 1H NMR (300 MHz, CDCl3) δ ppm 8.89-8.96 (m, 1H), 8.11-8.20 (m, 2H), 7.82-7.89 (m, 2H), 7.41-7.49 (m, 1H), 5.39 (dt, 1H), 2.15 (d, 3H).

reactant | 1-quinolin-6-yl-ethanol | 2.3 mmol, 0.4 g | N1=CC=CC2=CC(=CC=C12)C(C)O | C11H11NO
reactant | PBr3 | 2.3 mmol, 0.22 mL | P(Br)(Br)Br | Br3P
reactant | NaHCO3 | 100 mL | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | 6-(1-Bromoethyl)-quinoline | 0.4 g, 72% | BrC(C)C=1C=C2C=CC=NC2=CC1 | C11H10BrN
